US08334295B2
1-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-6-methyl-1H-indole-4-carbonitrile (Compound 89)
AcBr (3 mL) was added to 6-methyl-1-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-1H-indole-4-carbonitrile (470 mg, 1.40 mmol). The reaction mixture was heated at 70° C. for 6 hours. The reaction mixture was then cooled to room temperature and concentrated. The crude reaction product was purified (silica gel, 0-80% EtOAc/hexane) to give a white solid (280 mg, 65%). LC-MS shows 307.1 (M−1).

reactant | AcBr | 3 mL | C(=O)(C)Br | C2H3BrO
reactant | 6-methyl-1-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-1H-indole-4-carbonitrile | 1.40 mmol, 470 mg | CC=1C=C(C=2C=CN(C2C1)C1=NC(=NC(=C1C(C)C)OC)OC)C#N | C19H20N4O2
product | 1-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-6-methyl-1H-indole-4-carbonitrile | 280 mg, 65% | C(C)(C)C1=C(NC(NC1=O)=O)N1C=CC=2C(=CC(=CC12)C)C#N | C17H16N4O2
